US09120822B2
Acetic anhydride (9.95 g, 97.5 mmol, 10.0 eq) is added at room temperature to a stirred solution of {trans-4-[2-(3-chloro-6-methoxy-[1,5]naphthyridin-4-yl)-1-formyl-2-hydroxy-ethyl]-cyclohexyl}-carbamic acid tert-butyl ester (4.5 g, 9.7 mmol, 1.0 eq) in anhydrous pyridine (100 mL). After 30 hours stirring at room temperature and 90 hours stirring at 50° C., solvent is removed and the residue is extracted with ethyl acetate (3×100 mL) and a saturated sodium hydrogen carbonate aqueous solution (100 mL). The combined organic layers are dried over sodium sulfate, filtered and concentrated to give the crude product that is purified by column chromatography (silica gel, eluent: petroleum ether:ethyl acetate:dichloromethane, 9:2:1 to 6:2:1, v/v/v) to afford {trans-4-[2-(3-chloro-6-methoxy-[1,5]naphthyridin-4-yl)-1-formyl-vinyl]-cyclohexyl}-carbamic acid tert-butyl ester as a white solid (3.40 g, 79% yield).

reactant | Acetic anhydride | 97.5 mmol, 9.95 g, 10.0 eq | C(C)(=O)OC(C)=O | C4H6O3
reactant | {trans-4-[2-(3-chloro-6-methoxy-[1,5]naphthyridin-4-yl)-1-formyl-2-hydroxy-ethyl]-cyclohexyl}-carbamic acid tert-butyl ester | 9.7 mmol, 4.5 g, 1.0 eq | C(C)(C)(C)OC(N[C@@H]1CC[C@H](CC1)C(C(O)C1=C(C=NC2=CC=C(N=C12)OC)Cl)C=O)=O | C23H30ClN3O5
solvent | pyridine | 100 mL | N1=CC=CC=C1 | C5H5N
product | {trans-4-[2-(3-chloro-6-methoxy-[1,5]naphthyridin-4-yl)-1-formyl-vinyl]-cyclohexyl}-carbamic acid tert-butyl ester | 3.40 g, 79% yield | C(C)(C)(C)OC(N[C@@H]1CC[C@H](CC1)C(=CC1=C(C=NC2=CC=C(N=C12)OC)Cl)C=O)=O | C23H28ClN3O4
